US07211694B2
A mixture of 130 ml of 7.9 molar aqueous dimethylamine solution, 16 ml of methanol, 20.0 g of 4-benzyloxycyclohexanone, 23.2 g of dimethylamine hydrochloride and 15.3 g of potassium cyanide was stirred for 65 hours at room temperature; extraction was carried out four times using 120 ml of diethyl ether each time, and the combined extracts were concentrated; 100 ml of dichloromethane were added to the residue, the phases were separated, and the organic phases were dried over sodium sulfate, filtered and concentrated. 24.5 g of 4-benzyloxy-1-dimethylaminocyclohexanecarbonitrile were obtained in the form of a yellowish oil which slowly solidified.

reactant | dimethylamine | 7.9 molar, 130 ml | CNC | C2H7N
reactant | 4-benzyloxycyclohexanone | 20.0 g | C(C1=CC=CC=C1)OC1CCC(CC1)=O | C13H16O2
reactant | dimethylamine hydrochloride | 23.2 g | Cl.CNC
reactant | potassium cyanide | 15.3 g | [C-]#N.[K+]
solvent | methanol | 16 ml | CO | CH4O
product | 4-benzyloxy-1-dimethylaminocyclohexanecarbonitrile | 24.5 g | C(C1=CC=CC=C1)OC1CCC(CC1)(C#N)N(C)C | C16H22N2O
